US04845219
3-Mesyloxypropyl 2-methoxy-3-(12-cyclohexyldodecyloxy)propyl sulfone
In 100 ml of dichloromethane are dissolved 8.9 g of 2-methoxy-3-(12-cyclohexyldodecyloxy)propyl 3-hydroxypropyl sulfone and 3.7 ml of triethylamine, to which 3.0 g of methanesulfonyl chloride is added dropwise with stirring under ice cooling. After 2 hours stirring at room temperature, the reaction solution is washed with water, an aqueous sodium bicarbonate solution and water, and dried. The solvent is then distilled off under reduced pressure to leave 10.4 g of the captioned compound.

reactant | 2-methoxy-3-(12-cyclohexyldodecyloxy)propyl 3-hydroxypropyl sulfone | 8.9 g | OCCCS(=O)(=O)CC(COCCCCCCCCCCCCC1CCCCC1)OC | C25H50O5S
reactant | triethylamine | 3.7 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.0 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-Mesyloxypropyl 2-methoxy-3-(12-cyclohexyldodecyloxy)propyl sulfone | 10.4 g | COC(CS(=O)(=O)CCCOS(=O)(=O)C)COCCCCCCCCCCCCC1CCCCC1 | C26H52O7S2
